US07319099B2
(a) 2-(4-Bromo-phenyl)-[1,3,4]oxadiazole
12.3 mmol of 4-bromo-benzoic acid hydrazide were dissolved in 26 ml of triethyl orthoformate. The reaction mixture was stirred overnight at 140°, evaporated and the residue crystallized from ethanol to give the title compound as a colorless solid. MS (m/e): 225.0 (MH+, 100%)

reactant | 4-bromo-benzoic acid hydrazide | 12.3 mmol | BrC1=CC=C(C(=O)NN)C=C1 | C7H7BrN2O
reactant | triethyl orthoformate | 26 ml | C(OCC)(OCC)OCC | C7H16O3
product | 2-(4-Bromo-phenyl)-[1,3,4]oxadiazole | BrC1=CC=C(C=C1)C=1OC=NN1 | C8H5BrN2O
